US06326495B2
6-(4-Methoxybenzylamino)hexan-3-ol (3.0.0)
Tetrahydrofuran (121 gal, 458 L) and sodium borohydride (22.154 kg, 585.6 moles) were charged to a clean and dry nitrogen purged 500 gallon glass lined tank. The suspension was allowed to stir for 30 minutes at 20-25° C. then 4-hydroxyhexanoic acid 4-methoxy-benzylamide (45.75 kg, 182 moles) was added as a solid. After 30 minutes, the reaction was cooled to 5-10° C. and over a 4 to 8 hour period a solution of acetic acid (9.1 gallons, 34.4 L) in tetrahydrofuran (12 gal, 45.4 L) was added keeping the temperature at 0-10° C. A slight nitrogen bleed was kept on the tank to help remove the hydrogen. When the addition was complete the reaction was warmed to 20-25° C. and stirred for an hour. The temperature of the reaction was slowly increased to a gentle reflux (˜66° C.) and held there for 16 hours. The reaction was quenched by the addition of 1N HCl, keeping the temperature <25° C. Excess tetrahydrofuran was removed by atmospheric distillation. Ethyl acetate was added to the resulting aqueous solution to extract unreacted amide. The acidic aqueous was then brought to pH 11 to allow the product amine to be extracted into ethyl acetate and held for use in the next step. An aliquot of the ethyl acetate solution of product was worked up to project final yield and concentration. The yield for this large scale run was 55.0%, which was less than that achieved with small scale preparations (78.8%). The large scale procedure had 12.8% unreduced amide starting material after the quench which accounted in part for the lower yield.

reactant | sodium borohydride | 585.6 moles, 22.154 kg | [BH4-].[Na+]
reactant | 4-hydroxyhexanoic acid 4-methoxy-benzylamide | 182 moles, 45.75 kg | COC1=CC=C(CNC(CCC(CC)O)=O)C=C1 | C14H21NO3
reactant | acetic acid | 9.1 gallons | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 45.4 L | O1CCCC1 | C4H8O
product | 6-(4-Methoxybenzylamino)hexan-3-ol | COC1=CC=C(CNCCCC(CC)O)C=C1 | C14H23NO2
